US04188325
A solution of 3-methylthiooxindole (1.70 g, 0.0095 mol) and N-chlorosuccinimide (1.34 g, 0.01 mol) in 100 ml of carbon tetrachloride was stirred at room temperature for 1 hour, the precipitate of succinimide was removed by filtration, and the filtrate was evaporated, yielding crude 3-chloro-3-methylthiooxindole. The residue, which was thus obtained, was dissolved in a minimum of tetrahydrofuran and added to a vigorously stirred slurry of red mercuric oxide powder (2.17 g, 0.01 mol) and boron trifluoride etherate (1.43 g, 0.01 mol) in 20 percent aqueous tetrahydrofuran (70 ml). After stirring at room temperature for 1 hour, 200 ml of ether was added, the reaction mixture was filtered through a pad of Celite and the organic phase of the filtrate was separated, dried over anhydrous magnesium sulfate, filtered, and this filtrate was evaporated to give isatin (1.07 g, 78%), mp 200°-202° after recrystallization from benzene.

reactant | 3-methylthiooxindole | 0.0095 mol, 1.70 g | CC1C(NC2=CC=CC=C12)=S | C9H9NS
reactant | N-chlorosuccinimide | 0.01 mol, 1.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chloro-3-methylthiooxindole | ClC1(C(NC2=CC=CC=C12)=S)C | C9H8ClNS
